US09447044B2
Step A: 3-mercapto-pyrazine-2-carboxylic acid methyl ester
After 3-chloro-pyrazine-2-carboxylic acid methyl ester (0.4 g, 2.3 mmol) was dissolved in MeOH (46 mL), sodium hydrosulfide monohydrate (0.65 g, 6.9 mmol) was added thereto, and the mixture was stirred at room temperature for 9 hours. After the termination of the reaction, the reactant was concentrated under reduced pressure, and 1N HCl aqueous solution was used to adjust the pH of the reactant to 3. The reactant was extracted with EtOAc, and the organic layer was separated to obtain the title compound (0.35 g, 89%).

reactant | 3-chloro-pyrazine-2-carboxylic acid methyl ester | 2.3 mmol, 0.4 g | COC(=O)C1=NC=CN=C1Cl | C6H5ClN2O2
reactant | sodium hydrosulfide monohydrate | 6.9 mmol, 0.65 g | O.[SH-].[Na+]
solvent | MeOH | 46 mL | CO | CH4O
product | 3-mercapto-pyrazine-2-carboxylic acid methyl ester | 0.35 g, 89% | COC(=O)C1=NC=CN=C1S | C6H6N2O2S
